US04602927
Using a procedure similar to that described in Example 1, 59.5 g of phenyl isocyanate were added dropwise to 58.5 g of 4-methyl-5-chloroimidazole in 250 ml of chloroform. During the addition, the temperature increased to 42° C. Refluxing was then carried out for 2 hours, after which the solution was cooled with ice, and the precipitate which separated out was filtered off under suction, washed with chloroform and dried to give 80 g (67.9%) of 1-N-phenylcarbamyl-4-methyl-5-chloroimidazole of melting point 112.3°-114.4° C.

reactant | phenyl isocyanate | 59.5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-methyl-5-chloroimidazole | 58.5 g | CC=1N=CNC1Cl | C4H5ClN2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-N-phenylcarbamyl-4-methyl-5-chloroimidazole | 80 g, 67.9% | C1(=CC=CC=C1)NC(=O)N1C=NC(=C1Cl)C | C11H10ClN3O
